US06515124B2
A solution of 2-methylpropanethioamide (3.1 g, 30 mmol) and ethyl 2-chloroacetoacetate (3.29 g, 20 mmol) in ethanol (40 mL) was heated at reflux for 3 h. The reaction mixture was evaporated to dryness and the residue was taken up in dichloromethane (50 mL) and the solution was washed with saturated sodium bicarbonate solution (2×25 mL). The aqueous layers were back-washed with dichloromethane (25 mL), then the combined dichloromethane layers were dried (MgSO4), filtered and concentrated under vacuum. The residue was purified using a Waters Prep 500 apparatus (silica gel dual column; 10% ethyl acetate/hexanes). Evaporation of the appropriate fractions afforded 2-(1-methylethyl)-4-methylthiazole-5-carboxylic acid ethyl ester (4.0 g, 93% yield).

reactant | 2-methylpropanethioamide | 30 mmol, 3.1 g | CC(C(N)=S)C | C4H9NS
reactant | ethyl 2-chloroacetoacetate | 20 mmol, 3.29 g | ClC(C(=O)OCC)C(=O)C | C6H9ClO3
solvent | ethanol | 40 mL | C(C)O | C2H6O
product | 2-(1-methylethyl)-4-methylthiazole-5-carboxylic acid ethyl ester | 4.0 g, 93% yield | C(C)OC(=O)C1=C(N=C(S1)C(C)C)C | C10H15NO2S
